US06727264B1
N-[3-(1-{5-[4-(3,4-DIFLUOROPHENYL)-2-OXO-1,3-OXAZOLIDIN-3-YL]PENTYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE:
A mixture of 3-(5-bromopentyl)-4-(3,4-difluorophenyl)-1,3-oxazolidin-2-one (38.0 mg, 0.110 mmol), 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide (26.0 mg, 0.100 mmol), NaI (23.0 mg, 0.150 mmol), and K2CO3 (14.0 mg, 0.100 mmol) in DMF (2 mL) was heated for 1 h at 50° C. The crude product was purified by preparative TLC using CH2Cl2/MeOH/isopropyl amine (19:1:0.2) to give the desired product (21 mg, 41%). 1H NMR (400 MHz, CDCl3) δ 7.49 (s, 1H), 7.39-7.32 (m, 2H), 7.26-7.20 (m, 2H), 7.18-7.11 (m, 1H), 7.10-7.03 (m, 1H), 6.96 (d, 1H, J=7.6 Hz), 4.80-4.73 (m, 1H), 4.62 (t, 1H, J=7.9 Hz), 4.09-4.04 (m, 1H), 3.51-3.42 (m, 1H), 3.03 (d, 2H, J=11.7 Hz), 2.82-2.72 (m, 1H), 2.51-2.42 (m, 2H), 2.32 (t, 2H, J=7.9 Hz), 2.11 (s, 1H), 2.03-1.97 (m, 2H), 1.85-1.70 (m, 4H), 1.49 (m, 4H), 1.31-1.27 (m, 1H), 1.24 (d, 6H, J=6.9 Hz); ESMS m/e: 514.4 (M+H)+.

reactant | 3-(5-bromopentyl)-4-(3,4-difluorophenyl)-1,3-oxazolidin-2-one | 0.110 mmol, 38.0 mg | BrCCCCCN1C(OCC1C1=CC(=C(C=C1)F)F)=O | C14H16BrF2NO2
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | 0.100 mmol, 26.0 mg | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
reactant | NaI | 0.150 mmol, 23.0 mg | [Na+].[I-]
reactant | K2CO3 | 0.100 mmol, 14.0 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-[3-(1-{5-[4-(3,4-DIFLUOROPHENYL)-2-OXO-1,3-OXAZOLIDIN-3-YL]PENTYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE | 21 mg, 41% | FC=1C=C(C=CC1F)C1N(C(OC1)=O)CCCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C29H37F2N3O3
